US08871738B2
(2S)-2-[(S)-[3,5-Bis(trifluoromethyl)phenyl](hydroxy)methyl]but-3-enehydrazide (14.5 g, 42.4 mmol) was dissolved in IPA (100 mL) and HCl (4N in dioxane, 20 mL). tert-Butyl nitrite (5.24 g, 50.8 mmol) in IPA (20 mL) was added via a syringe pump at 50° C. over 1 hr. The reaction mixture was stirred at 50° C. and additional hour and the volatiles were removed. The crude mixture was dissolved in ethyl acetate (150 mL), washed with aqueous Na2CO3 (100 mL), dried over sodium sulfate, filtered and concentrated. The resultant oil was purified by column chromatography to yield (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-ethenyl-1,3-oxazolidin-2-one (7 g, 21.52 mmol) as light yellow crystalline solid. 1H NMR (500 MHz, CDCl3) δ7.90 (s, 1H), 7.82 (s, 2H), 5.91 (d, J=8.3 Hz, 1H), 5.2 (m, 3H), 4.7 (m, 1H).

reactant | (2S)-2-[(S)-[3,5-Bis(trifluoromethyl)phenyl](hydroxy)methyl]but-3-enehydrazide | 42.4 mmol, 14.5 g | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@H]([C@@H](C(=O)NN)C=C)O)(F)F | C13H12F6N2O2
reactant | tert-Butyl nitrite | 50.8 mmol, 5.24 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | IPA | 100 mL | CC(C)O | C3H8O
reactant | IPA | 20 mL | CC(C)O | C3H8O
solvent | HCl | 4N, 20 mL | Cl | ClH
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-ethenyl-1,3-oxazolidin-2-one | 21.52 mmol, 7 g | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](NC(O1)=O)C=C)(F)F | C13H9F6NO2
